US06194409B1
A mixture of 2.43 g of 2-(benzylamino-methyl)-4-methoxy-phenol and 20 mL of toluene was cooled to 5° C. and a solution of chloroacetyl chloride (0.88 mL) in 5 mL of toluene slowly added while stirring. Stirring was continued for 2 hours at room temperature. Dry tetrahydrofuran (25 mL) was added and 3.4 g of sodium hydride (95%; dispersion in mineral oil) were added in small portions under a nitrogen atmosphere. The mixture was allowed to stir at room temperature for 24 h. Water was added and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and the solvent removed in vacuo yielding 2.0 g of 4-benzyl-7-methoxy-4,5-dihydro-benzo[f][1,4]oxazepin-3-one as an oil. EI-MS: 283 (M+).

reactant | 2-(benzylamino-methyl)-4-methoxy-phenol | 2.43 g | C(C1=CC=CC=C1)NCC1=C(C=CC(=C1)OC)O | C15H17NO2
reactant | chloroacetyl chloride | 0.88 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 3.4 g | [H-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 4-benzyl-7-methoxy-4,5-dihydro-benzo[f][1,4]oxazepin-3-one | 2.0 g | C(C1=CC=CC=C1)N1C(COC2=C(C1)C=C(C=C2)OC)=O | C17H17NO3
